US06127354
A solution of di-tert-butyl dicarbonate (3.80 g, 17.4 mmol) in tetrahydrofuran (8.7 ml) was added dropwise to a solution of N-(2-(2-benzyloxyphenyl)ethyl)-N-methylamine (3.82 g, 15.8 mmol) in tetrahydrofuran (8.7 ml) and an 1 N aqueous sodium hydroxide solution (17.4 ml, 17.4 mmol). The reaction mixture was stirred for 16 h at room temperature. It was diluted with ethyl acetate (200 ml) and water (200 ml). The phases were separated. The aqueous phase was extracted with ethyl acetate (200 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (400 ml) and dried over magensium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (225 g), using ethyl acetate/heptane 1:4 as eluent, to give 4.73 g of N-(2-(2-benzyloxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | di-tert-butyl dicarbonate | 17.4 mmol, 3.80 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-(2-(2-benzyloxyphenyl)ethyl)-N-methylamine | 15.8 mmol, 3.82 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCNC | C16H19NO
reactant | sodium hydroxide | 17.4 mmol, 1 N, 17.4 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 8.7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8.7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | N-(2-(2-benzyloxyphenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 4.73 g | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O | C21H27NO3
